Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CC: BRBPR x 1 
 
Major Surgical or Invasive Procedure:
colonoscopy
 
History of Present Illness:
___ year old F with a PMH of hypothyroidism and anxiety who 
presents with BRBPR after a recent colonoscopy. 

Patient in her USOH and got a routine screening colonoscopy at 
___ on ___. During the colonoscopy 3 polyps were removed 
and she did well at home initially. Yesterday evening she had a 
bowel movement with bright red blood that filled the toilet. 
Denied any abdominal pain or rectal pain. Unclear if stool was 
dark. She reported feeling a little lightheaded and off balance 
following the episode. 

She decided to come to the ED where she had another episode of 
blood on her toilet paper after going to the bathroom. Currently 
denies dizziness/lightheaded. No chest pain, shortness of 
breath, nausea, vomiting, abdominal pain. No headaches, fevers, 
chills.  Has never had GI bleeding in the past.   

In the ED, patient with a T of 98 HR 61 RR 18 BP 146/77 O2: 100% 
on RA. She had maroon heme + stool but PE otherwise normal. Her 
hemoglobin was 11.3. 

 
Past Medical History:
Depression
 
Social History:
___
Family History:
no history of colon cancer 

 
Physical Exam:
Vitals: 98.3 PO 138 / 75 59 18 99 RA 
Gen: Lying in bed in no apparent distress, awake and alert
HEENT: AT, NC, PERRL, EOMI, MMM, hearing grossly intact
CV: S1, S2, RRR no M/R/G
Pulm: CTA b/l, no wheeze, rhonchi, or rales
GI: (+) BS, soft, NT, ND, no HSM 
MSK: No edema
Skin: No rashes or ulcerations evident
Neuro: A+O x4, speech fluent, face symmetric, moving all 
extremities
Psych: calm mood, appropriate affect

 
Pertinent Results:
Admission Labs:

___ 09:00AM BLOOD WBC-7.1 RBC-3.87* Hgb-11.3 Hct-35.2 
MCV-91 MCH-29.2 MCHC-32.1 RDW-15.9* RDWSD-53.0* Plt ___
___ 09:00AM BLOOD Glucose-95 UreaN-23* Creat-0.8 Na-142 
K-5.4* Cl-105 HCO3-25 AnGap-12
___ 09:11AM BLOOD Lactate-1.6 K-5.6 -> 3.9*

Discharge Labs:

___ 06:22AM BLOOD WBC-4.4 RBC-3.70* Hgb-11.0* Hct-33.3* 
MCV-90 MCH-29.7 MCHC-33.0 RDW-15.6* RDWSD-51.3* Plt ___
___ 06:22AM BLOOD Glucose-85 UreaN-7 Creat-0.8 Na-140 K-4.1 
Cl-103 HCO3-24 AnGap-13

Colonoscopy
A first polypectomy site with two ulcerations was seen at 35cm. 
There was a heme pigmented spot (stigmata of recent bleeding) on 
one of them. (endoclip)
A second polypectomy site was visualized at the hepatic flexure. 
There was a 1cm ulcerated polypectomy site with stigmata of 
recent bleeding. There was a small amount of clot noted with no 
active bleeding seen. There was surrounding erythema at the 
polypectomy site. (endoclip)
A third polypectomy site was seen in the cecum. Initially there 
was a small amount of fresh blood that cleared with irrigation. 
The polypectomy site was erythematous and there was a small 
central pigmented spot that appeared to be a source of some 
bleeding. The area of erythema may be residual polyp vs erythema 
from the polypectomy. (endoclip)
Diverticulosis of the ascending colon
Polyp in the sigmoid
Otherwise normal colonoscopy to cecum
 
Brief Hospital Course:
___ year old F with a PMH of hypothyroidism and anxiety who 
presents with BRBPR after a recent colonoscopy. 

#Lower GIB 
Had a screening colonoscopy with 3 polyps removed at OSH on 
___. Presents with BRBPR. Colonoscopy showed ulcerations with 
stigmata of recent bleeding at each polypectomy site s/p 
endoclip. H/H remained stable. GI recommends f/u Dr. ___ 
consider repeat ___ in one year. They also recommend she 
follow-up with her PCP prior to the next GI appointment to 
discuss whether work-up for bleeding diathesis is necessary. She 
was instructed to resume her home ASA in one week.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Levothyroxine Sodium Dose is Unknown  PO DAILY 
3. Citalopram 20 mg PO DAILY 

 
Discharge Medications:
1.  Levothyroxine Sodium 75 mcg PO DAILY  
2.  Citalopram 20 mg PO DAILY  
3. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until one week from your colonoscopy.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lower gastrointestinal bleed

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital due to bleeding from your 
lower GI tract after recently having a screening colonoscopy. 
You were seen by the GI team and had a repeat colonoscopy that 
showed evidence of previous bleeding from the sites in your 
colon where the polyps were removed. During the procedure, they 
placed clips to help prevent further bleeding at these site. 

You were likely more prone to bleeding because you take aspirin. 
However, the GI team recommends you speak to your PCP about the 
possible need to be worked up for a bleeding disorder before 
your next colonoscopy.

Please hold off taking aspirin for one week.
 
Followup Instructions:
___